US09145441B2
Compound 81a. (S)-4-Benzyl-3-(3-cyclopropyl-propionyl)-oxazolidin-2-one
In a separate flask a solution of (S)-4-benzyl-2-oxazolidinone (7.75 g, 43.8 mmol) in anhydrous tetrahydrofuran (75 mL) was cooled to −78° C. under a nitrogen atmosphere. A solution of n-butyllithium (2.5 M in hexanes, 17.5 mL, 43.8 mmol) was added dropwise. The reaction was stirred at −78° C. for 15 minutes. A solution of the acid chloride in anhydrous tetrahydrofuran (40 mL) was then added. The reaction mixture was stirred at −78° C. for 20 minutes then allowed to warm to room temperature over 1 h. A saturated aqueous solution of ammonium chloride (80 mL) was added. The layers were separated and the aqueous layer was extracted with ethyl acetate (50 mL). The organic layers were combined, dried over anhydrous sodium sulfate, filtered and evaporated to give a brown oil. The residue was purified by silica gel chromatography using iso-hexanes/ethyl acetate 4:1 to yield the title compound (8.88 g, 74%) as a colourless oil. 1H NMR (300 MHz, CDCl3) δ 0.08-0.15 (m, 2H), 0.42-0.52 (m, 2H), 0.73-0.89 (m, 1H), 1.55-1.67 (m, 2H), 2.73-2.85 (m, 1H), 2.97-3.18 (m, 2H), 3.27-3.37 (m, 1H), 4.14-4.26 (m, 2H), 4.65-4.75 (m, 1H), 7.19-7.40 (m, 5H). LCMS (m/z) 274.1 [M+H], Tr=2.82 min.

reactant | (S)-4-benzyl-2-oxazolidinone | 43.8 mmol, 7.75 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyllithium | 43.8 mmol, 2.5 M, 17.5 mL | C(CCC)[Li]
reactant | ammonium chloride | 80 mL | [Cl-].[NH4+]
reactant | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (S)-4-Benzyl-3-(3-cyclopropyl-propionyl)-oxazolidin-2-one | 8.88 g, 74% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CCC1CC1)=O | C16H19NO3
